US09447073B2
Preparation of 4-((6-(3-azido-2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxypropyl)pyridin-3-yl)oxy)benzonitrile (C12)
A solution of 4-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)oxy)benzonitrile (3.5 g, 8.74 mmol) and sodium azide (1.705 g, 26.2 mmol) in DMF (43.7 mL) was heated at 50° C. for 17 h. The reaction was poured into sat. aq. NaHCO3, and the mixture was extracted with Et2O (3×). The combined organic phases were washed with brine, dried (MgSO4) and concentrated to give the title compound as a brown oil (3.353 g, 69%).

reactant | 4-((6-((2-(2,4-difluorophenyl)oxiran-2-yl)difluoromethyl)pyridin-3-yl)oxy)benzonitrile | 8.74 mmol, 3.5 g | FC1=C(C=CC(=C1)F)C1(OC1)C(C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)(F)F | C21H12F4N2O2
reactant | sodium azide | 26.2 mmol, 1.705 g | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 43.7 mL | CN(C)C=O | C3H7NO
product | 4-((6-(3-azido-2-(2,4-difluorophenyl)-1,1-difluoro-2-hydroxypropyl)pyridin-3-yl)oxy)benzonitrile | 3.353 g, 69% | N(=[N+]=[N-])CC(C(F)(F)C1=CC=C(C=N1)OC1=CC=C(C#N)C=C1)(O)C1=C(C=C(C=C1)F)F | C21H13F4N5O2
